US07338974B2
Step A (1): To a solution of the methyl 2-(2-oxopyrrolidin-1-yl)acetate (15 g, 95.5 mmol, TCI-America) in THF (600 mL) at −78° C. was added n-BuLi (42.0 mL, 105 mmol, 2.5 M in hexane, Aldrich). After 10 min, allyl bromide (9.7 mL, 115 mmol, Aldrich) was added. The mixture was stirred at −78° C. for 1 h and warmed to room temperature over 2 h. The reaction was then quenched with saturated ammonium chloride. After 15 min the mixture was extracted with EtOAc (3×200 mL). The combined organic layers were dried with Na2SO4 and concentrated in vacuo. The residue was purified by silica gel chromatography (20-80% EtOAc/hexanes linear gradient) to afford methyl 2-(2-oxopyrrolidin-1-yl)pent-4-enoate 4.0 g (21% yield) as pale yellow oil: LC-MS (M+H)+=198.2; 1H NMR (400 MHz, CDCl3) δ 5.67-5.69 (m, 1H), 5.04-5.14 (m, 2H), 4.88 (dd, J=10.70, 5.16 Hz, 1H), 3.70 (s, 3H), 3.44-3.69 (m, 1H), 3.34-3.37 (m, 1H), 2.68-2.75 (m, 1H), 2.36-2.46 (m, 3H), 1.94-2.07 (m, 2H).

reactant | methyl 2-(2-oxopyrrolidin-1-yl)acetate | 95.5 mmol, 15 g | O=C1N(CCC1)CC(=O)OC | C7H11NO3
reactant | n-BuLi | 105 mmol, 2.5 M, 42.0 mL | [Li]CCCC
reactant | allyl bromide | 115 mmol, 9.7 mL | C(C=C)Br | C3H5Br
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | methyl 2-(2-oxopyrrolidin-1-yl)pent-4-enoate | 4.0 g, 21% yield | O=C1N(CCC1)C(C(=O)OC)CC=C | C10H15NO3
